US08603645B2
39.0 g (0.26 mol) of 2-amino-4-tert-butyl-pyridine was added with ˜100 mL of 60% HBr, then stirred at −10° C. to −17° C. 124.0 g (0.78 mol) of pre-cooled Br2 (˜0° C.) was added dropwise added and the mixture was stirred for 20 mins. Pre-cooled (0° C.) NaNO2 solution of 46.0 g (0.67 mol) of NaNO2 dissolved in ˜80 mL of water was added dropwise into the reaction mixture at −10° C. to −17° C. After addition, the reaction was stirred for one hour. Ice-cooled ˜25% NaOH solution was added slowly until the solution became basic. 200 mL of ethyl acetate was added to the mixture to extract the organic phase. The organic phase solvent was evaporated and distilled under vacuum. ˜47 g (85% yield) of 2-bromo-4-tert-butyl-pyridine was obtained. The product was confirmed by MS.

reactant | 2-amino-4-tert-butyl-pyridine | 0.26 mol, 39.0 g | NC1=NC=CC(=C1)C(C)(C)C | C9H14N2
reactant | HBr | ˜100 mL | Br | BrH
reactant | Br2 | 0.78 mol, 124.0 g | BrBr | Br2
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | NaNO2 | 0.67 mol, 46.0 g | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | water | ˜80 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-bromo-4-tert-butyl-pyridine | ˜47 g, 85% yield | BrC1=NC=CC(=C1)C(C)(C)C | C9H12BrN
